US04145512
100 parts of 4-(β-cyanoethyl)-amino-1,2,2,6,6-pentamethylpiperidine were dissolved in 500 parts of methanol and hydrogenated at a hydrogen pressure of 80 to 100 bar and a temperature of 80° to 100° C. with the addition of 150 parts of liquid ammonia and 25 parts of Raney cobalt until uptake of hydrogen ceased. The catalyst was removed by filtration and the filtrate was fractionated under vacuum. 95 parts of 4-(γ-aminopropyl)-amino-1,2,2,6,6-pentamethylpiperidine, boiling point 110° to 112° C./0.1 torr, were obtained.

reactant | 4-(β-cyanoethyl)-amino-1,2,2,6,6-pentamethylpiperidine | C(#N)CCC1C(C(N(C(C1)(C)C)C)(C)C)N | C13H25N3
reactant | hydrogen | [H][H] | H2
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
catalyst | cobalt | [Co] | Co
product | 4-(γ-aminopropyl)-amino-1,2,2,6,6-pentamethylpiperidine | NCCCC1C(C(N(C(C1)(C)C)C)(C)C)N | C13H29N3
